US05556990
tert-Butyllithium (12.5 ml, 21.25 mmol, 1.7M in pentane) is added dropwise to a stirred solution of 2-bromonaphthalene (2 g, 9.66 mmol) in anhydrous diethyl ether (40 ml) under argon at -78° C. The solution is stirred for 15 min and then treated with a 2.71M solution of trimethyltin chloride in dioxane (4.63 ml, 12.55 mmol). The heterogeneous mixture is warmed to room temperature, diluted with diethyl ether (150 ml) and treated with 10% NH4OH solution (90 ml) for 5 minutes. The two phases are separated and the organic phase is washed with water followed by brine, dried over MgSO4 and concentrated to dryness. The oil is purified by flash silica chromatography (hexane) to give napthyltrimethyl stannane (2.69 g, 95.6%).

reactant | tert-Butyllithium | 21.25 mmol, 1.7M, 12.5 ml | C(C)(C)(C)[Li]
reactant | 2-bromonaphthalene | 9.66 mmol, 2 g | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | trimethyltin chloride | C[Sn](C)(C)Cl
reactant | dioxane | 12.55 mmol, 4.63 ml | O1CCOCC1 | C4H8O2
reactant | NH4OH | 90 ml | [NH4+].[OH-]
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | napthyltrimethyl stannane | 2.69 g, 95.6% | C1(=CC=CC2=CC=CC=C12)[Sn](C)(C)C | InChI=1S/C10H7.3CH3.Sn/c1-2-6-10-8-4-3-7-9(10)5-1;;;;/h1-7H;3*1H3;
